Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Loss of conciousness, bi-temporal hemianopsia with total 
blindness to right eye
 
Major Surgical or Invasive Procedure:
Attmpted coiling of A-Comm aneurysm
Clipping of A-Comm Aneursym
Multiple cerebral angiograms 
Placement of External ventricular drain
Removal of external ventricular drain

 
History of Present Illness:
Ms. ___ is a ___ yo RH F w/ no significant PMH who was
transferred from an OSH for evaluation of a SAH found on CT. 10
days prior to presentation, she developed an abrupt onset severe
headache. She was also nauseated, vomited and had photophobia.
She waited for 3 days but her symptoms did not improve so she
went to see her PCP. She states that she was sent home and so 
she
decided to take Motrin 800mg around the clock. Her symptoms did 
not improve
therefore she went back to see her physician ___ ___. She
was given a prescription for an analgesic per her report and was
driving to the pharmacy when she had a surge of pain followed by
LOC. Her next memory is being found by EMS who took her to an
OSH. There she was found to have a SAH and transferred here for
further evaluation.

In the ED here, she was initially able to see from both eyes but
then noted loss of vision in her R eye as well as "blurry" 
vision
in her L eye. When these symptoms presented she was emergently
taken to CT and CTA which showed a aneurysm of the anterior
circulation with bleeding. 
 
Past Medical History:
PMH:
per OMR s/p cholecystectomy, common bile duct exploration

 
Social History:
___
Family History:
FH:
-Grandmother: DM, HTN
-Grandfather: MI

 
 

 
Physical ___:
ON ARRIVAL 

O: T: 98.9 BP: 138/79   HR: 10    R 14       O2Sats 100% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 1.5mm bilaterally  EOMI initially, then CNIII
partial palsy on L
Neck: mild nuchal rigidity
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect. Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
No dysarthria or paraphasic errors (per translator)

Cranial Nerves:
I: Not tested
___: Pupils equally round and reactive to light, to 1.5
mm bilaterally. R eye total blindness even to light
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus initially, however later she had decreased R eye
adduction
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Reflexes: B T Br Pa Ac
Right     ___  2  1 
Left      ___  2  1

Toes downgoing bilaterally

ON DISCHARGE:

Awake alert and oriented x 3 
CN ___ intact except for right eye= completely blind, left 
eye with temporal hemionopsia, right pupil non reactive.  Speech 
clear, no facial asymmetry, no drift, motor full, sensation 
grossly intact.

 
 

 
Pertinent Results:
CT HEAD W/O CONTRAST  ___ 9:06 AM

CT HEAD W/O CONTRAST

Reason: Assess size of ventricles 

UNDERLYING MEDICAL CONDITION:
___ year old woman with ___ evd clamped 
REASON FOR THIS EXAMINATION:
Assess size of ventricles 
CONTRAINDICATIONS for IV CONTRAST: None.

HEAD CT

HISTORY: ___ woman with subarachnoid hemorrhage with 
ventricular drain clamped, assess for change in size of 
ventricles.

TECHNIQUE: Contiguous axial images of the head were obtained 
from the skull base to the vertex.

FINDINGS: Comparison is made to ___.

Again seen is a ventricular shunt via left frontal approach with 
tip of the catheter within the region of the right foramen of 
___. The ventricles are re-expanded bilaterally, and there has 
also been decrease in size of the right extra-axial fluid 
collection as well as improved edema of the right frontal and 
basal ganglial infarcts. Therefore, the increase in size of the 
ventricles likely is due to decreased mass effect with 
improvement in the subfalcine herniation as opposed to clamping 
of the ventricular shunt.

Again seen is a small hypodensity along the ventricular shunt 
tract involving the left frontal lobe as before.

The basal cisterns, especially the quadrigeminal plate and 
ambient cisterns are better visualized suggestive of improved 
edema.

Tiny amounts of pneumocephalus are again seen.

Coil pack is again seen within the anterior communicating artery 
aneurysm.

Post-surgical changes of the right scalp are again noted.

IMPRESSION: Since ___, decrease in size of right extra-axial 
collection and decreased edema of the right basal 
ganglia/frontal lobe infarct, with improvement in the subfalcine 
herniation and improvement in mass effect of the lateral 
ventricles.

The basal cisterns are better visualized suggestive of improved 
cerebral edema.

CHEST (PORTABLE AP)  ___ 8:48 AM

CHEST (PORTABLE AP)

Reason: eval CVL position 

UNDERLYING MEDICAL CONDITION:
___ year old woman with possible inadvertent withdrawal of CVL, 
meds appear to be collecting subcutaneously 
REASON FOR THIS EXAMINATION:
eval CVL position 
INDICATION: ___ female with possible inadvertent 
withdrawal of central venous line.

COMPARISON: ___.

SINGLE PORTABLE UPRIGHT CHEST RADIOGRAPH: The right subclavian 
catheter has been pulled back and now resides projecting over 
the right subclavian vein. There is no pneumothorax. The 
cardiomediastinal silhouette is stable and unremarkable and the 
lungs are clear.

CTA HEAD W&W/O C & RECONS  ___ 9:45 AM

CTA HEAD W&W/O C & RECONS; CT BRAIN PERFUSION

Reason: ** CTA/CTP** as per Dr. ___ 
Contrast: OPTIRAY

UNDERLYING MEDICAL CONDITION:
___ year old woman with acom SAH, s/p clipping 
REASON FOR THIS EXAMINATION:
** CTA/CTP** as per Dr. ___ 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: ___ status post ACom clipping.

COMPARISON: CT perfusion ___.

TECHNIQUE: Continuous axial images of the brain were obtained 
before and following administration of 100 cc IV Optiray 
contrast. Multiplanar MIP and volume-rendered CTA reformats were 
displayed. Mean transit time blood flow and blood volume were 
assessed by dynamic imaging.

FINDINGS:

NON-CONTRAST HEAD CT: ACom aneurysm clip with associated 
metallic artifact is noted. Again seen is a hypoattenuating area 
within the right temporal and inferior frontal lobe consistent 
with evolving infarct. There is also expanding and increasingly 
conspicuous hypoattenuation within the right basal caudate, 
putamen, and internal capsule consistent with new/progressive 
infarction of this region. High-density right extra-axial fluid 
collection with small locules of air is unchanged measuring 13 
mm in greatest diameter. There is slightly increased mass effect 
on the subjacent sulci and increasing transtentorial and 
subfalcine herniation with leftward midline shift of 8 mm, 
previously 7 mm. Left ventriculostomy catheter terminates within 
the left lateral ventricle at the midline and the ventricles are 
stable in size. There is worsening effacement of the suprasellar 
and ambient cisterns consistent with increasing mass effect. The 
13-mm subgaleal fluid collection overlying the right frontal 
craniotomy is stable.

CTA OF THE HEAD: The cervical portions of the carotid arteries, 
vertebral arteries, and basilar artery are patent. There is 
improved opacification in the circle of ___ and its major 
branches. Specifically, there is marked improvement of vasospasm 
involving the distal right M1 and right M2 segments of the MCA. 
There is improvement in vasospasm of the A1 segments bilaterally 
(right greater than left) though the right A1 segment still 
shows moderate vasospasm. The A2 segments bilaterally also 
demonstrate markedly improved caliber. The left MCA and its 
branches are unremarkable. The bilateral PCA arteries are also 
unremarkable.

CT PERFUSION: There is patchy perfusion abnormality with 
decreased blood volume in the bilateral temporal lobes and also 
right frontal lobe, which likely relate to vasospasm.

IMPRESSION:

1. New/progressive infarction within the right basal ganglia.

2. Increasing mass effect and transtentorial herniation with 
worsening effacement of the suprasellar and ambient cisterns.

3. Improving vasospasm within the right MCA, and bilateral A1 
and A2 segments of the ACA. There is, however, persistent 
moderate vasospasm within the A1 segments, in close proximty to 
the ACOM aneurysm clip.

Findings were discussed with the neurosurgical team at 5:00 p.m. 
on
 ___.

___ TRANSCATH THERAPY  ___ 12:15 ___

Reason: ? Vasospasm 
Contrast: OPTIRAY

UNDERLYING MEDICAL CONDITION:
___ year old woman with ACA s/p clipping POD7 
REASON FOR THIS EXAMINATION:
? Vasospasm 
TYPE OF STUDY: Left common carotid arteriogram, left internal 
carotid arteriogram, left vertebral arteriogram, right common 
carotid arteriogram, and right internal carotid arteriogram.

STAFF: Dr. ___.

FELLOW: Dr. ___.

Dr. ___ attending interventional neuroradiologist, was 
present and supervised throughout the procedure.

INDICATION: ___ female status post surgical clipping of 
an anterior communicating artery aneurysm, now post-operative 
day number seven. Rule out vasospasm.

COMPARISON: ___.

TECHNIQUE: Written informed consent was obtained from the 
patient's daughter after discussing the indications for the 
procedure, the risks of the procedure, and the alternative 
management. The discussed risks include stroke, loss of vision 
and/or speech which may be temporary or permanent, with possible 
treatment with stents and/or coils if needed. Additionally the 
indications, risks, and alternative management for possible 
intervention was explained.

The patient was brought to the interventional neuroradiology 
suite and placed on the biplane table in the supine position. 
Both groins were prepped and draped in the usual sterile 
fashion. A pre-procedure timeout was performed using two patient 
identifiers and verifying the procedure to be performed.

Access to the right common femoral artery was obtained using a 
19-gauge single-wall needle with 1% lidocaine mixed with sodium 
bicarbonate for local anesthetic. A 0.35 ___ wire was 
introduced through the needle, and the needle was removed. A 5 
___ vascular sheath was placed over the wire and connected to 
a saline infusion (mixed with heparin 500 units in 500 cc of 
saline) with a continuous drip. Through the sheath, a 4 ___ 
___ catheter was introduced and connected to a continuous 
saline infusion (mixed with heparin 1000 units in 1000 cc of 
saline). The following vessels were selectively catheterized, 
and arteriograms were performed from the following locations: 
Right common carotid artery, right internal carotid artery, left 
vertebral artery, left common carotid artery, and left internal 
carotid artery. After review of the study, the catheter and the 
sheath were withdrawn. Hemostasis was achieved using manual 
compression. The patient tolerated the procedure well without 
any immediate post-procedure complications.

FINDINGS:

RIGHT COMMON CAROTID ARTERY: The bifurcation is normal. There is 
no evidence of a vascular malformation.

RIGHT INTERNAL CAROTID ARTERY: The cervical, petrous, cavernous, 
and supraclinoid segments of the internal carotid artery are 
normal. There is a surgical clip identified in the region of the 
anterior communicating artery with no residual aneurysm 
identified. There is mild stenosis of the M1 segment of the 
middle cerebral artery and moderate stenosis of the M2 middle 
cerebral artery branches. Additionally there is moderate 
stenosis of the A1 segment of the anterior cerebral artery with 
a focus of luminal irregularity in its proximal portion. There 
is decreased parenchymal phase blood flow identified within the 
right anterior watershed vascular distribution.

At this point, the decision was made for an intervention. 5 mg 
of verapamil was gently infused selectively into the right 
internal carotid artery over 1 minute. A right internal carotid 
artery angiogram was then repeated at approximately 10 minutes 
after the infusion of verapamil which demonstrated residual 
mild-to-moderate narrowing of the right A1 segment of the 
anterior cerebral artery, and right M1 and M2 segments of the 
middle cerebral artery.

LEFT VERTEBRAL ARTERY: The left vertebral artery and the left 
posterior inferior cerebellar artery appear unremarkable. There 
is no reflux identified into the right vertebral artery. The 
basilar artery appears unremarkable.

5 mg of verapamil was gently infused selectively into the left 
vertebral artery over ___AROTID ARTERY: The bifurcation is normal. There is 
no vascular malformation.

LEFT INTERNAL CAROTID ARTERY: The cervical, petrous, cavernous, 
and supraclinoid segments of the left internal carotid artery 
are normal. There is mild narrowing of the A1 segment of the 
left anterior cerebral artery. The left middle cerebral artery 
as well as its major branches appear unremarkable. A surgical 
clip is identified in the region of the anterior communicating 
artery with no residual aneurysm seen.

5 mg of verapamil was gently infused selectively into the left 
internal carotid artery over 1 minute. A post-infusion angiogram 
the left internal carotid artery demonstrates mild narrowing of 
the A1 segment of the anterior cerebral artery.

MODERATE SEDATION: 100 mcg of intravenous Fentanyl and 4 mg of 
intravenous Versed were administered in divided doses by a 
registered nurse, who was monitoring the patient throughout the 
2 hour and 15 minute intraservice time. Please refer to the 
nursing record for further detail.

IMPRESSION:
1. Status post surgical clipping of an anterior communicating 
aneurysm with no residual aneurysm identified.

2. Moderate narrowing of the right M1 and M2 segments of the 
middle cerebral artery and right A1 anterior cerebral artery, 
and mild narrowing of the left A1 segment of the anterior 
cerebral artery consistent with vasospasm. 5 mg of verapamil was 
selectively infused into the right internal carotid, left 
vertebral, and left internal carotid arteries for a total of 15 
mg of verapamil. Post- infusion angiogram demonstrated residual 
mild-to- moderate narrowing of the right M1 and M2 segments of 
the middle cerebral artery and right A1 segment of the anterior 
cerebral artery and residual mild narrowing of the A1 segment of 
the anterior cerebral artery.

Cardiology Report ECG Study Date of ___  1:55:18 ___ 
 
  
Artifact is present. Sinus rhythm. The P-R interval is short 
without evidence 
of pre-exciation. Possible non-specific ST-T wave changes. 
Compared to the 
previous tracing ST-T wave changes are new.  
  
 
Read by: ___. 
 
  ___ Axes 
Rate PR QRS QT/QTc P QRS T 
89 112 78 338/388 58 56 51 
 
RADIOLOGY  Final Report

MR HEAD W/O CONTRAST  ___ 4:18 AM

MR HEAD W/O CONTRAST; MRA BRAIN W/O CONTRAST

Reason: SAH, please eval optic chiasm 

UNDERLYING MEDICAL CONDITION:
___ year old woman with large SAH in chiasm, loosing vision 
REASON FOR THIS EXAMINATION:
SAH, please eval optic chiasm 
CONTRAINDICATIONS for IV CONTRAST: None.

HISTORY: ___ female with subarachnoid hemorrhage, ACOM 
aneurysm, with total vision loss on the right and blurriness on 
the left.

COMPARISON: CTA head of ___.

TECHNIQUE: Multiplanar T1- and T2-weighted imaging sequences 
were obtained through the brain without administration of IV 
contrast. 3D time-of-flight MR arteriography was also performed.

MRI/MRA OF BRAIN: Again seen is subarachnoid hemorrhage along 
the right insular sulci, the basilar cisterns, and the 
suprasellar cistern. A cluster of punctate regions of increased 
FLAIR signal may represent extension of the subarachnoid 
hemorrhage into perivascular spaces. No other region of 
hemorrhage is noted. The size of the hemorrhage is unchanged 
from the CTA of one day prior. There is no region of infarction, 
no shift of midline structures, and no evidence of mass. Mild 
hydrocephalus remains.

Again seen is an aneurysm of the anterior communicating artery 
which measures up to 10 mm long with a region of increased 
signal within the aneurysm which may represent a thrombus. The 
aneurysm is superior to the optic chiasm and indents the 
anterior portion of the chiasm. The orbits and optic nerves 
otherwise appear normal. No other aneurysms are seen on the MRA. 
The paranasal sinuses and mastoid air cells are clear. No 
osseous or soft tissue abnormality is otherwise seen.

IMPRESSION:
1. Subarachnoid hemorrhage in the basal cisterns and the right 
sulci unchanged from CTA of one day prior.
2. ACOM aneurysm superior to chiasm extends inferiorly to indent 
the anterior portion of the optic chiasm. No other aneurysm 
seen.
3. Mild hydrocephalus, unchanged.

   RADIOLOGY  Final ___
___ CAROTID/CERVICAL BILAT  ___ 2:51 ___

Reason: Cerebral angiogram - eval for bleeding 
Contrast: OPTIRAY

UNDERLYING MEDICAL CONDITION:
___ year old woman s/p clipping of AComm 
REASON FOR THIS EXAMINATION:
Cerebral angiogram - eval for bleeding 
PROCEDURE: RIGHT COMMON CAROTID ARTERIOGRAM, LEFT COMMON CAROTID 
ARTERIOGRAM.

STAFF: Dr. ___ and Dr. ___. Dr. ___ 
attending physician, was present and supervising throughout the 
procedure.

INDICATION: ___ woman with subarachnoid hemorrhage, 
status post surgical clipping of the anterior communicating 
artery aneurysm.

TECHNIQUE: Written informed consent was obtained after 
discussing the indications for the procedure, there risks of the 
procedure, and alternative management. The discussed risks 
included stroke, loss of vision and speech, temporary or 
permanent, with possible treatment with stents and coils if 
needed. The patient was brought to the interventional 
neuroradiology suite and placed on the biplane table in supine 
position. Both groins were prepped and draped in the usual 
sterile fashion. A preprocedure timeout was performed using two 
patient identifiers. The patient had an indwelling sheath in the 
right common femoral artery from the pre-operative cerebral 
angiogram. Through the sheath, a 5 ___ ___ catheter 
was introduced and connected to a continuous saline infusion 
(mixed with heparin 1000 units in 1000 cc of saline.). The 
following vessels were selectively catheterized, and 
arteriograms were performed from the following locations: Right 
common carotid artery, left common carotid artery. After review 
of the films, the catheter and the sheath were withdrawn. 
Hemostasis was obtained with an Angio-Seal device. The patient 
tolerated the procedure well without immediate complications.

FINDINGS:

RIGHT COMMON CAROTID ARTERY: The visualized external carotid 
arterial branches appear unremarkable.

RIGHT INTERNAL CAROTID ARTERY: The cervical, petrous, cavernous 
and supraclinoid segments are normal. The right middle cerebral 
artery is normal. There is no residual filling of the previously 
noted aneurysm of the anterior communicating artery. There is no 
narrowing of the A1 segment of the right anterior cerebral 
artery. The remainder of the anterior cerebral artery appears 
normal.

LEFT COMMON CAROTID ARTERY: The visualized external carotid 
arterial branches appear unremarkable.

LEFT INTERNAL CAROTID ARTERY: The cervical, petrous, cavernous 
and supraclinoid segments are normal. The left middle cerebral 
artery is normal. There is no filling of the previously noted 
aneurysm of the anterior communicating artery. There is no 
narrowing of the A1 segment of the left anterior cerebral 
artery. The remainder of the anterior cerebral artery appears 
normal.

MEDICATIONS: The procedure was performed under general 
anesthesia.

IMPRESSION: No residual filling of the clipped aneurysm of the 
anterior communicating artery. No narrowing of the A1 segments 
of the right or left anterior cerebral arteries.

   RADIOLOGY  Final Report

CTA HEAD W&W/O C & RECONS  ___ 11:25 ___

CTA HEAD W&W/O C & RECONS

Reason: SAH, MS CHANGES
Contrast: OPTIRAY

UNDERLYING MEDICAL CONDITION:
___ year old woman with osh with sah, headache for 10 days 
REASON FOR THIS EXAMINATION:
eval for sah 
CONTRAINDICATIONS for IV CONTRAST: None.

HISTORY: ___ female with headache for ten days and 
transferred from outside hospital with subarachnoid hemorrhage.

COMPARISON: No prior exam is available for comparison.

TECHNIQUE: Contiguous axial images were obtained through the 
brain without contrast material. Subsequently, rapid axial 
imaging was performed through the brain during infusion of IV 
Optiray contrast material. Multiplanar maximum intensity 
projection images were then obtained. 3D volume-rendered images 
are pending.

CT HEAD WITHOUT IV CONTRAST: Regions of high density along the 
right sulci, the basal cisterns, and the suprasellar cisterns 
are consistent with subarachnoid hemorrhage on the right. There 
is extension of this hyperdense material into the sella. There 
is mild hydrocephalus. Otherwise, there is no evidence of mass, 
edema, shift of normally midline structures, or large vascular 
territory infarction. No fractures are seen. The frontal sinuses 
are not pneumatized. Otherwise, the paranasal sinuses and the 
mastoid air cells are clear.

CTA HEAD: There is an 8 x 5 mm anterior communicating artery 
aneurysm which points inferoposteriorly in the suprasellar 
region and extends into the sella. Slight attenuation of the 
right more than left middle cerebral arteries may represent 
vasospasm. No other aneurysm is seen. The carotid and vertebral 
arteries and their major branches are otherwise patent, without 
evidence of focal stenosis or vascular abnormality.

IMPRESSION:
1. Subarachnoid hemorrhage along right insular sulci, basal 
cisterns, and suprasellar cistern.
2. 8 x 5-mm ACOM aneurysm extends inferoposteriorly into the 
sella. Slight attenuation of the MCAs may represent some amount 
of vasospasm.
PLEASE NOTE: THIS IS AN INCOMPLETE LIST OF RADIOLOGICAL STUDIES 
FOR THIS ___.  THIS REPRESENTS AT MINIMUM THE ORIGINAL, LATEST 
AND LIST OF INDIVIDUAL STUDIES THAT THE ___ HAD DURING THIS 
HOSPITAL STAY.

 
Brief Hospital Course:
Pt was admitted to the neurosurgery service after presenting 
with continued  headache and right eye blindness.  

Neuro: Exam followed q 1 hour during ICU stay.  ICP monitored 
via external ventricular drain system.  CSF diversion through 
EVD for hydrocephalus ___ IVH/SAH.  Ultimately pt tolerated 
having system removed on ___ without further hydrocephalus or 
elevated ICP's. Pt had CTA and cerebral angiogram on arrival.  
Endovascular coiling of A-COMM aneurysm was attempted and 
unsuccessful.  She was brought to the operating for a formal 
open craniotomy for aneurysm clipping on Hospital day #1.  
Subsequent CTA's/CTP's and cerebral angiograms were performed 
based on pt clinical exam and ICP's.  She was started on 
nimodipine on hospital day number one.  She is due to finish her 
21 day course on ___.  She was treated for intermittent bouts 
of vasopsasm with injection therapy during angiography as well 
as triple H therapy.  Some resultant cerebral infarcts were 
noted during imaging (see final diagnosis / discharge 
worksheet).
She was started on antiepileptics (dilantin) on her day of 
arrival and was switched to keppra as it was questioned that 
Dilatin may have been a fever source for her. 
Mannitol and solumedrol doses were tapered to off without 
episode.  

CV: no issues during this hospitalization.

RESP:Pt was intubated for the intial angiogram and subsequent 
surgery - she was extubated the following day and tolerated it 
well.

ID: The pt had fever during her stay.  Cultures were sent 
periodically according to temp's including CSF from the EVD 
system.  Medications were switched to rule out source of temp. 
Her cultures were negative including a MRSA and VRE screen.  She 
did have a UTI / E.coli noted on hosp day #1 and this was 
treated.  No additional fever source was identified.   

RENAL: No issues during this hospitalization.

ENDO:
- placed on sliding scale coverage for glucose control during 
ICU stay 

PPX:
-placed on pneumoboots, SSI, H2 Blocker, 

FEN: pt originally had NGT feeds and was ultimately advanced to 
regular diet wihtout incidence.

general - she was seen by ___ and OT services.

CODE STATUS: FULL CODE / during entire hospital stay 
she was seen by ___ clinic x 2 - she was unable to 
participate in the full ophto exam - she will see them in follow 
up 

 
Medications on Admission:
MEDS:
-prn Motrin

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4-6H () as 
needed.  
3. Levetiracetam 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day for 3 months.
Disp:*180 Tablet(s)* Refills:*0*
4. Percocet ___ mg Tablet Sig: ___ Tablets PO every four (4) 
hours.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
SAH with A-Comm Aneurysm
Right frontal CVA
Right Eye blindness / Left eye visual field cut
Right basal ganglia infarct
UTI

 
Discharge Condition:
Neurologically stable
Visual field deficit
 
Discharge Instructions:
DISCHARGE INSTRUCTIONS FOR CRANIOTOMY/HEAD INJURY

•Have a family member check your incision daily for signs of 
infection
•Take your pain medicine as prescribed
•Exercise should be limited to walking; no lifting, straining, 
excessive bending
•You may wash your hair only after sutures and/or staples have 
been removed 
•You may shower before this time with assistance and use of a 
shower cap
•Increase your intake of fluids and fiber as pain medicine 
(narcotics) can cause constipation
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, aspirin, Advil, 
Ibuprofen etc. 
•If you have been prescribed an anti-seizure medicine, take it 
as prescribed and follow up with laboratory blood drawing as 
ordered
- clearance to drive will be discussed at your post 
hospitalization office visit.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

•New onset of tremors or seizures
•Any confusion or change in mental status 
•Any numbness, tingling, weakness in your extremities
•Pain or headache that is continually increasing or not 
relieved by pain medication
•Any signs of infection at the wound site: redness, swelling, 
tenderness, drainage
•Fever greater than or equal to 101° F

 
Followup Instructions:
___